US05451700
Amberlite IRA-400 (OH) ion-exchange resin (55.5 g) is added in one portion to a stirred ethanol (120 mL)/methanol (30 mL) solution of 4-[5-[4-(aminoiminomethyl)phenoxy] pentyloxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide monohydrochloride (20 g). After stirring for 20 hours, the resin is removed by filtration. The mother liquor is concentrated at reduced pressure to afford 4-[5-[4-(aminoiminomethyl)phenoxy]pentyloxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide.

reactant | ethanol | 120 mL | C(C)O | C2H6O
reactant | 4-[5-[4-(aminoiminomethyl)phenoxy] pentyloxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide monohydrochloride | 20 g | Cl.NN=CC1=CC=C(OCCCCCOC2=C(C=C(C(=O)N(C(C)C)C(C)C)C=C2)OC)C=C1
solvent | methanol | 30 mL | CO | CH4O
product | 4-[5-[4-(aminoiminomethyl)phenoxy]pentyloxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide | NN=CC1=CC=C(OCCCCCOC2=C(C=C(C(=O)N(C(C)C)C(C)C)C=C2)OC)C=C1 | C26H37N3O4
